US05723452
An ice water bath-cooled mixture of 2.0 g (0.01 mol) of 2,6-dinitrobenzonitrile (Lancaster Synthesis, Inc., Windham, N.H. 03087), 1.06 ml (0.01 mol) of thiophenol, and 1.44 g (0.01 mol) of anhydrous K2CO3 in 50 mL of DMF was stirred for 0.5 h. Pyridine was added to the reaction mixture until it became basic, and was followed by the addition of approximately 100 mL of H2O. The yellow precipitate was collected by filtration, washed with 1N NaOH, water and dried to give 1.94 g (89%) of 2-nitro-6-(phenylthio)benzonitrile as a yellow solid: mp 106°-107° C.

reactant | 2,6-dinitrobenzonitrile | 0.01 mol, 2.0 g | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
reactant | thiophenol | 0.01 mol, 1.06 ml | C1(=CC=CC=C1)S | C6H6S
reactant | K2CO3 | 0.01 mol, 1.44 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Pyridine | N1=CC=CC=C1 | C5H5N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | H2O | approximately 100 mL | O | H2O
product | 2-nitro-6-(phenylthio)benzonitrile | 1.94 g, 89% | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)SC1=CC=CC=C1 | C13H8N2O2S
